* Z:\mnt\design.r\spice\examples\3760.asc
R1 N020 0 5.7K
R2 N018 0 200K
R3 N010 N014 20K
R4 N014 0 30.9K
R5 N007 0 10K
C1 N008 N007 2200p
R6 N010 N016 11K
R7 N016 0 20K
C2 N005 0 4.7µ
V1 N001 0 PWL(0 0 .5m 20)
M§Q1 N002 N004 N006 N006 Si4482DY
R8 0 N006 15m
C3 N003 0 2.2µ x5
D1 N003 N009 AOT-2015
D2 N003 N011 AOT-2015
D3 N003 N012 AOT-2015
D4 N003 N013 AOT-2015
D5 N003 N015 AOT-2015
D6 N003 N017 AOT-2015
D7 N003 N019 AOT-2015
L1 N001 N002 10µ
XU1 N009 N011 N012 N013 N015 N017 N019 N021 N006 N004 N005 N001 N001 MP_01 0 N003 MP_02 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 N018 N008 N010 N016 N010 N014 N010 N020 0 LT3760
D8 N003 N021 AOT-2015
D9 N002 N003 MBRS1100
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m
.lib LT3760.sub
.backanno
.end
